US08377895B2
Preparation of 6-((4-methylpiperazin-1-yl)methyl)-5,7-dihydroxy-8-methoxy-2-phenyl-4H-chromen-4-one [Methylpiperazine Wogonin]
The mixture of Wogonin (28.4 g), methanol (350 ml), 37% formaldehyde solution (8.04 ml), 4-N-methyl-piperazine (10.1 g) was stirred under for 4 hours at 51° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 55° C. to get the product as orange red solid 38.6 g of purity 99.7%. m.p.: 179° C. MS: (API-ES) m/z 397.5 [M+H]+, 419.5 [M+Na]+, 1H NMR (DMSO-d6/CF3COOD, 400 MHz): δ 8.12˜8.14 (m, 2H, Ar-2′,6′-H), 7.64˜7.66 (m, 3H, Ar-3′,4′,5′-H), 7.15 (s, 1H, 3-H), 4.44 (s, 2H, CH2), 3.96 (s, 3H, 8-OCH3), 3.43-3.74 (m, 8H, CH2), 2.93 (s, 3H, N—CH3).

reactant | Wogonin | 28.4 g | COC=1C(=CC(=C2C1OC(=CC2=O)C=3C=CC=CC3)O)O | C16H12O5
reactant | formaldehyde | 8.04 ml | C=O | CH2O
reactant | 4-N-methyl-piperazine | 10.1 g | CN1CCNCC1 | C5H12N2
solvent | methanol | 350 ml | CO | CH4O
product | 6-((4-methylpiperazin-1-yl)methyl)-5,7-dihydroxy-8-methoxy-2-phenyl-4H-chromen-4-one | 38.6 g | CN1CCN(CC1)CC=1C(=C2C(C=C(OC2=C(C1O)OC)C1=CC=CC=C1)=O)O | C22H24N2O5
